US09371320B2
B) 1-cyclopentyl-4-oxo-3-(1H-pyrazol-5-yl)-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile hydrochloride
A solution of 1-cyclopentyl-4-oxo-3-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile and 4N hydrogen chloride/ethyl acetate solution (1.31 mL) in ethanol (2 mL) was stirred overnight at 50° C., and the solvent was evaporated under reduced pressure. The residue was crystallized from ethanol and diisopropyl ether to give the title compound (136 mg).

reactant | 1-cyclopentyl-4-oxo-3-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile | C1(CCCC1)N1C=C(C=2C(NC=C(C21)C#N)=O)C2=CC=NN2C2OCCCC2 | C21H23N5O2
reactant | hydrogen chloride ethyl acetate | 4N, 1.31 mL | Cl.C(C)(=O)OCC
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-cyclopentyl-4-oxo-3-(1H-pyrazol-5-yl)-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile hydrochloride | 136 mg | Cl.C1(CCCC1)N1C=C(C=2C(NC=C(C21)C#N)=O)C2=CC=NN2 | InChI=1S/C16H15N5O.ClH/c17-7-10-8-18-16(22)14-12(13-5-6-19-20-13)9-21(15(10)14)11-3-1-2-4-11;/h5-6,8-9,11H,1-4H2,(H,18,22)(H,19,20);1H
